US06395753B1
Synthesis of 1-[[2-(3,5-dimethoxy-4-isopropoxyphenyl)pyridin-4-yl]methyl]-4-[N-[[2-(3,5-dimethoxy-4-isopropoxyphenyl)pyridin-4-yl]methyl]-N-(4-methoxyphenyl)amino]piperidine trihydrochloride:
4-(p-anisidino)-1-[[2-(3,5-dimethoxy-4-isopropoxyphenyl)pyridin-4-yl]methyl]piperidine (307 mg) and 4-chloromethyl-2-(3,5-dimethoxy-4-isopropoxyphenyl)pyridine (201 mg) were condensed in the same manner as described in Example 9. A free base obtained was converted to a trihydrochloride giving the title compound as yellow powder.

reactant | 4-(p-anisidino)-1-[[2-(3,5-dimethoxy-4-isopropoxyphenyl)pyridin-4-yl]methyl]piperidine | 307 mg | COC1=CC=C(C=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC(C)C)OC | C29H37N3O4
reactant | 4-chloromethyl-2-(3,5-dimethoxy-4-isopropoxyphenyl)pyridine | 201 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC(C)C)OC | C17H20ClNO3
product | 1-[[2-(3,5-dimethoxy-4-isopropoxyphenyl)pyridin-4-yl]methyl]-4-[N-[[2-(3,5-dimethoxy-4-isopropoxyphenyl)pyridin-4-yl]methyl]-N-(4-methoxyphenyl)amino]piperidine trihydrochloride | Cl.Cl.Cl.COC=1C=C(C=C(C1OC(C)C)OC)C1=NC=CC(=C1)CN1CCC(CC1)N(C1=CC=C(C=C1)OC)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC(C)C)OC | InChI=1S/C46H56N4O7.3ClH/c1-30(2)56-45-41(52-6)24-34(25-42(45)53-7)39-22-32(14-18-47-39)28-49-20-16-37(17-21-49)50(36-10-12-38(51-5)13-11-36)29-33-15-19-48-40(23-33)35-26-43(54-8)46(57-31(3)4)44(27-35)55-9;;;/h10-15,18-19,22-27,30-31,37H,16-17,20-21,28-29H2,1-9H3;3*1H
